US08791275B2
6-(3-(1-Adamantyl)-4-methoxyphenyl)-N-(pyridin-4-yl)-2-naphthamide
Reaction of 6-(3-(1-adamantyl)-4-(methoxyphenyl)-2-naphthoic acid (0.89 g, 2.16 mmol) with 4-aminopyridine (0.20 g, 2.16 mmol) was conducted according to the general amide coupling procedure using DCC to obtain the product as a yellow solid (0.58 g, 54%). 1H NMR (CDCl3) δ 8.57 (m, 2H), 8.39 (s, 1H), 8.34 (s, 1H), 8.05-7.82 (m, 5H), 7.70-7.53 (m, 4H), 7.00 (m, 1H), 3.91 (s, 3H), 2.20-2.08 (m, 8H), 1.83-1.75 (m, 7H).

reactant | 3-(1-adamantyl)-4-(methoxyphenyl)-2-naphthoic acid | 2.16 mmol, 0.89 g | C12(CC3CC(CC(C1)C3)C2)C=2C(=CC3=CC=CC=C3C2C2=C(C=CC=C2)OC)C(=O)O | C28H28O3
reactant | 4-aminopyridine | 2.16 mmol, 0.20 g | NC1=CC=NC=C1 | C5H6N2
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | 6-(3-(1-Adamantyl)-4-methoxyphenyl)-N-(pyridin-4-yl)-2-naphthamide | 0.58 g, 54% | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)C=2C=C3C=CC(=CC3=CC2)C(=O)NC2=CC=NC=C2 | C33H32N2O2
